US05594022
Step 1: Methyl N-CBZ-α-methyl-3-benzothiophenylalanine
A solution of methyl α-methyl-3-benzothiophenylalanine (Horwell, et al., WO9204025 A1.Mar. 19, 1992) (0.5 g, 2.0 mmol), sodium hydrogen carbonate (0.50 g, 6.00 mmol), dibenzyldicarbonate (0.7 g, 2.4 mmol), water (10 mL), and dioxan (10 mL) was stirred at room temperature overnight. The reaction mixture was diluted with water and ether. The organic phase was separated, washed with water, dried over MgSO4, filtered, and evaporated to dryness. Purification by column chromatography eluting with 2% ethyl acetate in dichloromethane gave an oil (0.6 g, 78%);

reactant | methyl α-methyl-3-benzothiophenylalanine | 2.0 mmol, 0.5 g | CN[C@@](CC=1SC2=C(C1)C=CC=C2)(C(=O)O)C | C13H15NO2S
reactant | sodium hydrogen carbonate | 6.00 mmol, 0.50 g | C(O)([O-])=O.[Na+]
reactant | dibenzyldicarbonate | 2.4 mmol, 0.7 g | C(C1=CC=CC=C1)OC(=O)OC(=O)OCC1=CC=CC=C1 | C16H14O5
reactant | dioxan | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | water | 10 mL | O | H2O
product | Methyl N-CBZ-α-methyl-3-benzothiophenylalanine | 0.6 g, 78% | CN([C@@](CC=1SC2=C(C1)C=CC=C2)(C(=O)O)C)C(=O)OCC2=CC=CC=C2 | C21H21NO4S
